US05021576
E. 2-[(2,6-dichlorophenyl)amino]-5-hydroxy benzene acetic acid
A solution of 1-(2,6-dichlorophenyl)-5-hydroxy-2-indolinone (2.0 g, 6.8 mmol) in 25 mL of 2.5N NaOH is heated at reflux for 2 hours. The cool reaction mixture is diluted with 20 mL of water and washed with ethyl ether. The basic layer is acidified with concentrated HCl and extracted with ethyl acetate (2×25 mL). The organic phase is washed with brine and dried (Na2SO4). Removal of solvent affords the product (2.0 g, 95%) as a brown foam (of suitable purity for use in the next step).

reactant | 1-(2,6-dichlorophenyl)-5-hydroxy-2-indolinone | 6.8 mmol, 2.0 g | ClC1=C(C(=CC=C1)Cl)N1C(CC2=CC(=CC=C12)O)=O | C14H9Cl2NO2
reactant | NaOH | 2.5N, 25 mL | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | 2-[(2,6-dichlorophenyl)amino]-5-hydroxy benzene acetic acid | 2.0 g, 95% | ClC1=C(C(=CC=C1)Cl)NC1=C(C=C(C=C1)O)CC(=O)O | C14H11Cl2NO3
